US07282512B2
To a solution of 63 mg (0.31 mmol) of (1-benzylcyclohexyl)methanol in 1 mL of tetrahydrofuran was added 0.32 mL (0.62 mmol) of 1.93 M phosgene in toluene. The reaction was stirred at room temperature for 18 h, quenched with a stream of nitrogen gas for 5 min, and concentrated under reduced pressure. The resulting liquid was added to a solution of 133 mg (0.31 mmol) of N-((5S)-5-amino-6-hydroxy-7-oxo-7-{[(1R)-1-phenylethyl]amino}heptyl)-4-morpholinecarboxamide hydrochloride and 0.095 mL (0.68 mmol) of triethylamine in 2 mL of methanol. The reaction was stirred at room temperature for 24 h and concentrated under reduced pressure. The residue was purified by silica chromatography eluting with 6:4 acetone:hexanes to afford 110 mg (57%) of (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate. 1H NMR (400 MHz, DMSO-d6) δ 7.96 (m, 1H), 7.06-7.29 (m, 10H), 6.53 (d, J=9 Hz, 1H), 6.41 (m, 1H), 5.56-5.75 (m, 1H), 4.88 (qnt, J=7 Hz, 1H), 3.88 (m, 1H), 3.73 (m, 1H), 3.51 (m, 2H), 3.45 (t, J=4 Hz, 4H), 3.16 (t, J=4 Hz, 4H), 2.96 (m, 2H), 2.57 (s, 2H), 1.17-1.54 (m, 19H). ES-LCMS m/z 645 (M+Na).

reactant | (1-benzylcyclohexyl)methanol | 0.31 mmol, 63 mg | C(C1=CC=CC=C1)C1(CCCCC1)CO | C14H20O
reactant | phosgene | 0.62 mmol, 1.93 M, 0.32 mL | C(=O)(Cl)Cl | CCl2O
reactant | N-((5S)-5-amino-6-hydroxy-7-oxo-7-{[(1R)-1-phenylethyl]amino}heptyl)-4-morpholinecarboxamide hydrochloride | 0.31 mmol, 133 mg | Cl.N[C@@H](CCCCNC(=O)N1CCOCC1)C(C(N[C@H](C)C1=CC=CC=C1)=O)O
reactant | TEA | 0.68 mmol, 0.095 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 2 mL | CO | CH4O
product | (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | 110 mg, 57% | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCCCC1)CC1=CC=CC=C1)=O | C35H50N4O6
